### ISSUE TITLE
Internal error in `decide` tactic

### ISSUE THREAD

**Issue by b-mehta** [leanprover/lean4#10766]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Call to `decide +kernel` fails with error
```
Tactic `decide` failed. Internal error: The elaborator is able to reduce the `Decidable` instance, but the kernel is not able to
```

### Context

```
noncomputable def powMod (a b n : Nat) : Nat :=
  aux (b + 1) (a.mod n) b 1
where
  aux : Nat → ((a b c : Nat) → Nat) :=
    Nat.rec (fun _ _ _ => 0)
      (fun _ r a b c =>
        (b.beq 0).rec
          (((b.mod 2).beq 0).rec
            (r ((a.mul a).mod n) (b.div 2) ((a.mul c).mod n))
            (r ((a.mul a).mod n) (b.div 2) c))
          (c.mod n))

def x : Nat := 127780414391497973212171930170926986757577048484820926201064729783485263494817422495127775983679039078116803697168137524940219819335799478153348592755198599590903607242050230924443865709697486743641039970666450337071378658828331722728467720393963808366917988956767802913905167890490075236068196363700359481304279948916896583006686025357237170212018946813663108217900835975808683160984117514866915965161953626338070145596982334808959718966160701183250747572515090867613655044807172211728519357721287835503689517292364425608325467094686443862517374850243698013720305871319056887431952190952721719757200172695537054790570648290887720009455171821568413052107356003828041937567129362866696549587422369864562815134637684140271767482353107080370450890024342225936273158281477009232714640818424893445193089479459814572594522258577931514012256573162006292678354475638319009668319255772179069845291474717503333030909793536116894869761453687330048252587304656806182949368202671739705463406846852567720022377005763291104588535681445561286808586673846016527511475331939430139687698419185010117348285933672139833826832898565919546377321517928825162277951756632134321102813522053716838646284289

set_option maxRecDepth 20000

example : powMod 2 (x - 1) x = 1 := by decide +kernel
```
It seems that the error in the kernel is`deep recursion detected`.

### Steps to Reproduce

1. Code as above.

**Expected behavior:** Code succeeds, or errors with a kernel error.

**Actual behavior:** Code reports an internal error.

### Versions

Tested on `4.24.0-rc1` on live lean, and `4.25.0-nightly-2025-10-13` on live lean.

### Additional Information

It would be really cool if I could change how deep the kernel tries to recurse, since I think this one should be tail-recursive? 

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Agreed that the error needs to be better. Especially as with `+kernel`, the elaborator isn’t doing things here.

> It seems that the error in the kernel isdeep recursion detected.

Likely, but where do you see that?

**Comment by nomeata** [comment]
One sees the kernel error using for example
```
/-- error: (kernel) deep recursion detected -/
#guard_msgs in
example : powMod 2 (x - 1) x = 1 := by run_tac Lean.Elab.Tactic.closeMainGoalUsing `test fun _ _ => Lean.Meta.mkEqRefl (Lean.mkNatLit 1)
```
and indeed `decide +kernel` should show that message.

**Comment by nomeata** [comment]
And indeed by forcing the kernel to do eager evaluation of the parameters, this proof goes through:
```
import Lean

def Nat.eager : Nat → (Nat → Nat) → Nat :=
  fun n k => n.rec (k 0) (fun n _ => k (n.succ))

noncomputable def powMod (a b n : Nat) : Nat :=
  aux (b + 1) (a.mod n) b 1
where
  aux : Nat → ((a b c : Nat) → Nat) :=
    Nat.rec (fun _ _ _ => 0)
      (fun _ r a b c =>
        a.eager fun a =>
        -- b.eager fun b =>
        -- c.eager fun c =>
        (b.beq 0).rec
          (((b.mod 2).beq 0).rec
            (r ((a.mul a).mod n) (b.div 2) ((a.mul c).mod n))
            (r ((a.mul a).mod n) (b.div 2) c))
          (c.mod n))

def x : Nat := 127780414391497973212171930170926986757577048484820926201064729783485263494817422495127775983679039078116803697168137524940219819335799478153348592755198599590903607242050230924443865709697486743641039970666450337071378658828331722728467720393963808366917988956767802913905167890490075236068196363700359481304279948916896583006686025357237170212018946813663108217900835975808683160984117514866915965161953626338070145596982334808959718966160701183250747572515090867613655044807172211728519357721287835503689517292364425608325467094686443862517374850243698013720305871319056887431952190952721719757200172695537054790570648290887720009455171821568413052107356003828041937567129362866696549587422369864562815134637684140271767482353107080370450890024342225936273158281477009232714640818424893445193089479459814572594522258577931514012256573162006292678354475638319009668319255772179069845291474717503333030909793536116894869761453687330048252587304656806182949368202671739705463406846852567720022377005763291104588535681445561286808586673846016527511475331939430139687698419185010117348285933672139833826832898565919546377321517928825162277951756632134321102813522053716838646284289

example : powMod 2 (x - 1) x = 1 := by decide +kernel
```

My assumption is that without this, the kernel manages to go through the recursion just fine, but builds a very large expression for `a`, and then trying to reduce that is expensive.

With `Nat.eager`, we force it to reduce the argument to a literal, so it runs more compactly.


Strangely `b.eager fun b =>` makes it much slower. eager evaluation of `c` does not change much, even if we only do it in the branch where `c` changes:
```
            ( ((a.mul c).mod n).eager fun c' =>  r ((a.mul a).mod n) (b.div 2) c')
```

**Comment by nomeata** [comment]
ah, and while fixing the error message I was reminded that `decide +kernel` will, if the kernel cannot handle it, try to diagnose the problem using the elaborator, i.e. normal `decide`. So the error message wasn't wrong about the Elaborator succeeding here.

**Comment by b-mehta** [comment]
> > It seems that the error in the kernel is `deep recursion detected`.
> 
> Likely, but where do you see that?

To be entirely honest, I don't remember! Perhaps it was with `rfl` as the proof...? I'm not sure, sorry. It wasn't as fancy as your way of exposing that error though!

> And indeed by forcing the kernel to do eager evaluation of the parameters, this proof goes through:

Woah, this is amazing, thank you!! I think I'd tried making all of them eager, and got no improvement (presumably things cancelled out). But it makes sense that making `a` eager helps while `b` doesn't.
